US09290499B2
A microwave tube was charged with 6-(methylthio)-3-phenyl-1H-pyrazolo[3,4-d]pyrimidine (0.073 g, 0.30 mmol), potassium carbonate (0.14 g, 0.90 mmol), and DMSO (1 mL). The resulting mixture was stirred for 20 min, then was added a solution of tert-butyl trans-4-(bromomethyl)cyclohexylcarbamate (0.10 g, 0.36 mmol) in THF (2 mL). The resulting mixture was heated at 150° C. for 10 min in microwave. The reaction mixture was poured into water and extracted with Et2O (3×). The combined ether layer was dried (Na2SO4) and concentrated. The crude mixture was purified by Isco to provide tert-butyl trans-4-((6-(methylthio)-3-phenyl-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)cyclohexylcarbamate (0.12 g, 88%) as a white solid. 1H NMR (400 MHz, CDCl3) δ 9.11 (s, 1H), 7.90 (d, J=7.2 Hz, 2H), 7.55-7.44 (t, J=6.8 Hz, 2H), 7.41 (t, J=7.3 Hz, 1H), 4.37 (bs, 1H), 4.27 (d, J=7.1 Hz, 2H), 3.37 (bs, 1H), 2.61 (s, 3H), 2.09-1.89 (m, 3H), 1.67 (d, J=12.1 Hz, 2H), 1.39 (s, 9H), 1.19 (dd, J=24.4, 10.8 Hz, 2H), 1.04 (ddd, J=25.4, 12.7, 2.9 Hz, 2H); 13C NMR (100 MHz, CDCl3) δ 170.1, 155.3, 154.8, 152.3, 144.3, 132.2, 129.2, 127.1, 109.3, 79.3, 52.5, 49.7, 37.7, 32.9, 29.6, 28.5, 12.5; MS m/z 454.2 [M+H]+.

reactant | 6-(methylthio)-3-phenyl-1H-pyrazolo[3,4-d]pyrimidine | 0.30 mmol, 0.073 g | CSC1=NC=C2C(=N1)NN=C2C2=CC=CC=C2 | C12H10N4S
reactant | potassium carbonate | 0.90 mmol, 0.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMSO | 1 mL | CS(=O)C | C2H6OS
reactant | tert-butyl trans-4-(bromomethyl)cyclohexylcarbamate | 0.36 mmol, 0.10 g | BrC[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C12H22BrNO2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | tert-butyl trans-4-((6-(methylthio)-3-phenyl-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)cyclohexylcarbamate | 0.12 g, 88% | CSC1=NC=C2C(=N1)N(N=C2C2=CC=CC=C2)C[C@@H]2CC[C@H](CC2)NC(OC(C)(C)C)=O | C24H31N5O2S
